US05708008
5-(1-pentanoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 10.0 mg (0.10 mMol) pentanoic acid, 12.8 mg (82%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | pentanoic acid | 0.10 mMol, 10.0 mg | C(CCCC)(=O)O | C5H10O2
product | 5-(1-pentanoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 12.8 mg, 82% | C(CCCC)(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C19H27N3O
